US08134001B2
To a solution of racemic(2′R, 3R, 4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-(1-hydroxycarbonylmethyl-4-piperidinyloxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (50 mg, 0.069 mmol) in anhydrous N,N-dimethylformamide (2 mL) was added EDCI (26.5 mg, 0.139 mmol), HOBT (18.8 mg, 0.139 mmol), diisopropylethylamine (35.9 mg, 0.278 mmol), NH4Cl (7.4 mg, 0.278 mmol). The reaction mixture was heated at 80° C. for 1 h, then cooled to room temperature. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over MgSO4, and concentrated. The residue was purified by chromatography (MeOH:EtOAc=8:92) to give racemic(2′R, 3R, 4′S)-2′-[2-(1-carbamoylmethyl-4-piperidinyloxy)-5-iodo-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione as an off white solid (Yield 25.6 mg, 51%)

reactant | 6-chloro-4′-(3-chlorophenyl)-2′-[2-(1-hydroxycarbonylmethyl-4-piperidinyloxy)-5-iodo-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.069 mmol, 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)I)OC1CCN(CC1)CC(=O)O)=O | C31H28Cl2IN3O5
reactant | EDCI | 0.139 mmol, 26.5 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.139 mmol, 18.8 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.278 mmol, 35.9 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH4Cl | 0.278 mmol, 7.4 mg | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2′-[2-(1-carbamoylmethyl-4-piperidinyloxy)-5-iodo-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | C(N)(=O)CN1CCC(CC1)OC1=C(C=C(C=C1)I)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O | C31H29Cl2IN4O4
